* source OPA695_PSPICE
X_U1         N00308 N00315 OUT VCC VEE OPA695
R_R1         N00315 OUT  1k TC=0,0 
R_R2         0 N00315  1k TC=0,0 
V_V1         VEE 0 -5Vdc
V_V2         VCC 0 5Vdc
V_V3         N00308 0 DC 0Vdc AC 1Vac 
